US05266728
19.0 g (58.5 mmol) of the Diels-Alder adduct was dissolved in 115 ml of tetrahydrofuran, 12.9 g (300 mmol) of sodium hydroxide in 140 ml of water was added on ice cooling, the mixture was stirred at room temperature for 24 hours. After distilling off tetrahydrofuran, the product was neutralized with 27 ml of concentrated hydrochloric acid and extracted with a mixture solvent of hexane-methylene chloride (98:2) (100 ml×4). The extract was dried over anhydrous magnesium sulfate, the solution was filtered, and the solvent was distilled off to obtain 8.3 g of crude 5-norbornene-2-carboxylic acid.

reactant | sodium hydroxide | 300 mmol, 12.9 g | [OH-].[Na+]
reactant | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
solvent | water | 140 ml | O | H2O
product | 5-norbornene-2-carboxylic acid | 8.3 g | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
